US08541457B2
Preparation of 4-Amino-2-benzamidothiazole-5-carboxylic Acid
To a solution of methyl 4-amino-2-benzamidothiazole-5-carboxylate (0.16 g, 0.57 mmol) in tetrahydrofuran (10 mL) and water (5 mL) was added lithium hydroxide monohydrate (0.007 g, 1.60 mmol). The reaction mixture was stirred at ambient temperature for 16 hours and adjusted to pH 5˜6 with 5% hydrochloric acid. The mixture was extracted with ethyl acetate (3×100 mL) and the combined organic extract was washed with brine, dried over anhydrous sodium sulfate and filtered. The filtrate was concentrated to afford the title compound (0.14 g, 88%); MS (ES+) m/z 263.4 (M+1).

reactant | methyl 4-amino-2-benzamidothiazole-5-carboxylate | 0.57 mmol, 0.16 g | NC=1N=C(SC1C(=O)OC)NC(C1=CC=CC=C1)=O | C12H11N3O3S
reactant | lithium hydroxide monohydrate | 1.60 mmol, 0.007 g | O.[OH-].[Li+]
reactant | hydrochloric acid | Cl | ClH
solvent | tetrahydrofuran | 10 mL | O1CCCC1 | C4H8O
solvent | water | 5 mL | O | H2O
product | 4-Amino-2-benzamidothiazole-5-carboxylic Acid | 0.14 g, 88% | NC=1N=C(SC1C(=O)O)NC(C1=CC=CC=C1)=O | C11H9N3O3S
